US09359367B2
Step 1: Ethyl 6-oxospiro[2.5]octane-5-carboxylate
To a stirred solution of spiro[2.5]octan-6-one (prepared according to the procedure reported in US2008176926) (0.900 g, 7.25 mmol) in dimethylformamide (10 ml) at 5° C. was added sodium hydride (0.580 g, 60%, 14.50 mmol) under a nitrogen atmosphere over a period of 10 min and the resulting mixture was stirred for an additional 20 min at the same temperature. To this reaction mixture, diethylcarbonate (1.72 g, 14.50 mmol) was added at 5° C. and stirred for 1 h and then allowed to stir at room temperature for 2 h. The progress of the reaction was monitored by TLC. The reaction mixture was cooled to 0° C. and quenched with saturated ammonium chloride (10 ml) and diluted with water (30 ml). The resulting mixture was extracted with diethyl ether (2×20 ml), and the combined organic layer was washed with water (2×20 ml), dried over anhydrous sodium sulphate, filtered, and the solvent was removed under reduced pressure to obtain a crude product which was purified by flash chromatography over silica gel (100-200 mesh) using 1% ethyl acetate in hexane as eluent to yield the title compound (0.510 g, 35.9%).

reactant | spiro[2.5]octan-6-one | C1CC12CCC(CC2)=O | C8H12O
reactant | sodium hydride | 14.50 mmol, 0.580 g | [H-].[Na+]
reactant | diethylcarbonate | 14.50 mmol, 1.72 g | C(C)OC(OCC)=O | C5H10O3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Ethyl 6-oxospiro[2.5]octane-5-carboxylate | 0.510 g, 35.9% | O=C1C(CC2(CC2)CC1)C(=O)OCC | C11H16O3
